US06410781B1
A dry three-neck, round-bottom flask, equipped with a reflux condenser, was charged with magnesium turnings (1.89 g, 78 mmol) and iodine (0.131 g, 0.518 mmol). The apparatus was capped tightly with septa and purged with N2, and then anhydrous diethyl ether (80 mL) was added by cannula. The reaction mixture was stirred for 2 h, during which time the iodine was consumed. The flask was cooled with an ice bath, and then 1-bromo-3,5-difluorobenzene (10 g, 51.8 mmol) was injected in portions with stirring. The ice bath was removed, and the reaction mixture was stirred for 1 h, during which time an exotherm was evident, and much of the Mg was consumed. The supernatant solution of the Grignard reagent was slowly transferred by cannula to a stirred solution of cis-1,2-cyclohexanedicarboxylic anhydride (7.98 g, 51.8 mmol) in anhydrous ether (120 mL), maintained at −78° C. under N2. The resulting solution was stirred at −78° C. for 1 h, and then allowed to warm to 20° C. over 18 h. The reaction mixture was poured into 1M sulfuric acid (150 mL) and extracted with 200 mL hexanes. The organic layer was washed with sat. NaCl, dried over MgSO4, filtered, and evaporated to give cis-2-(3,5-difluorophenylcarbonyl)-cyclohexanecarboxylic acid, as an oil, which was used immediately in the next step.

reactant | magnesium | 78 mmol, 1.89 g | [Mg] | Mg
reactant | iodine | 0.518 mmol, 0.131 g | II | I2
reactant | 1-bromo-3,5-difluorobenzene | 51.8 mmol, 10 g | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | cis-1,2-cyclohexanedicarboxylic anhydride | 51.8 mmol, 7.98 g | [C@@H]12[C@@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | sulfuric acid | 1M, 150 mL | S(O)(O)(=O)=O | H2O4S
solvent | ether | 120 mL | CCOCC | C4H10O
product | cis-2-(3,5-difluorophenylcarbonyl)-cyclohexanecarboxylic acid | FC=1C=C(C=C(C1)F)C(=O)[C@@H]1[C@@H](CCCC1)C(=O)O | C14H14F2O3
